US07189754B2
Methyl (2S,4EZ)-1-[(4′-fluoro[1,1′-biphenyl]4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxylate
Following the general methods as outlined in Example 4, starting 1-tert-butyl 2-methyl (2S,4EZ)-4-(methoxyimino)-1,2-pyrrolidinedicarboxylate and 4′-fluoro[1,1′-biphenyl]-4-carboxylic acid, the title compound was isolated, after flash-chromatography, as a mixture of two isomers as an oil in 39% yield (97.6% purity by HPLC).

reactant | 1-tert-butyl 2-methyl (2S,4EZ)-4-(methoxyimino)-1,2-pyrrolidinedicarboxylate | CON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C12H20N2O5
reactant | 4′-fluoro[1,1′-biphenyl]-4-carboxylic acid | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9FO2
product | Methyl (2S,4EZ)-1-[(4′-fluoro[1,1′-biphenyl]4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxylate | 39% yield | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)OC | C20H19FN2O4
